US09370515B2
Preparation of trans-4-(3-(5-fluorobenzo[b]thiophen-2-yl)imidazo[1,2-b]pyridazin-6-ylamino)cyclohexanol
To a solution of 3-bromo-N-(3,4-dimethoxyphenyl)imidazo[1,2-b]pyridazin-6-amine (118 mg, 0.338 mmol, 1.0 equiv) in acetonitrile (3.79 mL) was added 2-(5-fluorobenzo[b]thiophen-2-yl)-4,4,5,5-tetramethyl-1,3,2-dioxaborolane (158 mg, 0.569 mmol, 1.5 equiv), bis(triphenylphosphine)palladium(II)dichloride (27 mg, 0.0379 mmol, 0.1 equiv), then sodium carbonate (3.79 mL, 1.0 M aqueous solution, 10 equiv). The reaction mixture was irradiated in the microwave at 150° C. for 10 min. Purification by column chromatography gave 90 mg of the yellow solid, 62%.

reactant | 3-bromo-N-(3,4-dimethoxyphenyl)imidazo[1,2-b]pyridazin-6-amine | 0.338 mmol, 118 mg, 1.0 equiv | BrC1=CN=C2N1N=C(C=C2)NC2=CC(=C(C=C2)OC)OC | C14H13BrN4O2
reactant | 2-(5-fluorobenzo[b]thiophen-2-yl)-4,4,5,5-tetramethyl-1,3,2-dioxaborolane | 0.569 mmol, 158 mg, 1.5 equiv | FC1=CC2=C(SC(=C2)B2OC(C(O2)(C)C)(C)C)C=C1 | C14H16BFO2S
reactant | sodium carbonate | 1.0 M, 3.79 mL, 10 equiv | C([O-])([O-])=O.[Na+].[Na+]
solvent | acetonitrile | 3.79 mL | C(C)#N | C2H3N
catalyst | bis(triphenylphosphine)palladium(II)dichloride | 0.0379 mmol, 27 mg, 0.1 equiv | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl
product | trans-4-(3-(5-fluorobenzo[b]thiophen-2-yl)imidazo[1,2-b]pyridazin-6-ylamino)cyclohexanol | 90 mg | FC1=CC2=C(SC(=C2)C2=CN=C3N2N=C(C=C3)N[C@@H]3CC[C@H](CC3)O)C=C1 | C20H19FN4OS
